US07973051B2
v) (5-Ethyl-4-methyl-thiazol-2-yl)-carbamic acid tert-butyl ester
The above prepared (5-ethynyl-4-methyl-thiazol-2-yl)-carbamic acid tert-butyl ester (0.420 g, 1.76 mmol) was dissolved in 12 mL of ethyl acetate and hydrogenated over 0.200 g of Pd on charcoal (10%) at atmospheric pressure and ambient temperature over night. Filtration over a pad of Celite and evaporation off all solvents yielded 0.396 g of the title product as light brown viscous oil, sufficiently pure for the next step.

reactant | (5-ethynyl-4-methyl-thiazol-2-yl)-carbamic acid tert-butyl ester | 1.76 mmol, 0.420 g | C(C)(C)(C)OC(NC=1SC(=C(N1)C)C#C)=O | C11H14N2O2S
solvent | ethyl acetate | 12 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd on charcoal | 0.200 g | [Pd] | Pd
product | (5-Ethyl-4-methyl-thiazol-2-yl)-carbamic acid tert-butyl ester | 0.396 g | C(C)(C)(C)OC(NC=1SC(=C(N1)C)CC)=O | C11H18N2O2S
